US08247415B2
Preparation of [5-oxo-1,6-naphthyridin-6(5H)-yl]acetic acid (i-36)
To 1,6-naphthyridin-5(6H)-one (0.625 g, 4.28 mmol) was added 5 M sodium hydroxide solution (1.7 mL) followed by chloroacetic acid (0.404 g, 4.28 mmol). The reaction mixture was heated at 100° C. for 2 h. After cooled down to ambient temperature and neutralized with 2 N hydrochloric acid (2.1 mL), the title compound was collected by filtration as a yellow solid. 1H NMR (DMSO-d6): δ 13.1 (s, 1H), 8.94 (dd, J=4.6, 1.8 Hz, 1H), 8.51 (dd, J=8.0, 1.6 Hz, 1H), 7.72 (d, J=7.6 Hz, 1H), 7.52 (dd, J=8.0, 4.6 Hz, 1H), 6.72 (d, J=7.6 Hz, 1H), 4.72 (s, 2H). LC/MS 205.2 (M+1).

reactant | 1,6-naphthyridin-5(6H)-one | 4.28 mmol, 0.625 g | N1=CC=CC=2C(NC=CC12)=O | C8H6N2O
reactant | sodium hydroxide | 5 M, 1.7 mL | [OH-].[Na+]
reactant | chloroacetic acid | 4.28 mmol, 0.404 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 2 N, 2.1 mL | Cl | ClH
product | [5-oxo-1,6-naphthyridin-6(5H)-yl]acetic acid | O=C1C=2C=CC=NC2C=CN1CC(=O)O | C10H8N2O3
